US07700598B2
103f (R)-2-(3-bromo-4-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 70 mg (2.92 mmol) LiOH in 5 mL water was added to a solution of 1.0 g (1.84 mmol) of (R)-2-(3-bromo-4-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 20 mL THF and the reaction mixture was stirred for 5 h at RT. The reaction solution was evaporated down i.vac., the residue was combined with DCM, the organic phase was washed with 1 M KHSO4 solution and dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was triturated with DIPE, suction filtered and dried.

reactant | LiOH | 2.92 mmol, 70 mg | [Li+].[OH-]
reactant | (R)-2-(3-bromo-4-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 1.84 mmol, 1.0 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)C)Br)C(=O)OC)C=CC=C2 | C26H30BrN3O5
solvent | water | 5 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-2-(3-bromo-4-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)C)Br)C(=O)O)C=CC=C2 | C25H28BrN3O5
